US09166177B2
An excess of 1.6M n-BuLi in hexane (30 mL, 48 mmol) was added to a solution of 9-(8-bromodibenzo[b,d]thiophen-2-yl)-9H-carbazole (18.6 g, 43.4 mmol) in 500 ml dry tetrahydrofuran at −78° C. under N2. The reaction mixture was then maintained at 0° C. for 1 h before cooling to −78° C. Trimethylborate (5.9 g, 56 mmol) was added dropwise, the solution was then warmed slowly to room temperature and stirred for 24 h. 2N HCl (100 ml) was added and then the mixture was stirred for a further 1 h. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuum, and the residue was crystallized from n-hexane to give 8-(9H-carbazol-9-yl)dibenzo[b,d]thiophen-2-ylboronic acid 11.9 g (63%).

reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 48 mmol, 30 mL | CCCCCC | C6H14
reactant | 9-(8-bromodibenzo[b,d]thiophen-2-yl)-9H-carbazole | 43.4 mmol, 18.6 g | BrC=1C=CC2=C(C3=C(S2)C=CC(=C3)N3C2=CC=CC=C2C=2C=CC=CC32)C1 | C24H14BrNS
reactant | Trimethylborate | 56 mmol, 5.9 g | COB(OC)OC | C3H9BO3
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 8-(9H-carbazol-9-yl)dibenzo[b,d]thiophen-2-ylboronic acid | 11.9 g, 63% | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=CC2=C(C3=C(S2)C=CC(=C3)B(O)O)C1 | C24H16BNO2S
